US06794401B2
Preparation of 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione
To a solution of 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzilidene]thiazolidin-2,4-dione (0.7 g, 1.6 mmol) in methanol (20 ml) dry Pd/C (0.15 g) was added. After hydrogenating at 60 psi at 40° C. over night, the solution was filtered with Celite and evaporated under reduced pressure to yield quantitatively the title compound. This compound did not show melting in DSC but changes to black colour, in capillary and shrinks at 97-133° C. Compound 2.

reactant | 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzilidene]thiazolidin-2,4-dione | 1.6 mmol, 0.7 g | NC(CC1=CC=C(OC2=CC=C(C=C3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC | C20H18N2O5S
solvent | methanol | 20 ml, 0.15 g | CO | CH4O
product | 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione | NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC | C20H20N2O5S
